US07439393B2
i) N-(1,1′-Biphenyl-4-yl)-N′-(3-{[2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]-methyl}phenyl)urea
A solution of (5R)-3-(6-{2-[(3-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (0.202 g) in dichloromethane (4 ml) was treated with 4-biphenylyl isocyanate (0.126 g) and the mixture stirred under nitrogen at 20° C. for 19 h. Isopropanol (15 ml) was added to quench excess isocyanate, and the mixture stirred for 2 h. The solvents were removed in vacuo to give a residue which was purified by Biotage. Elution with 6:4 EtOAc/cyclohexane followed by solvent evaporation in vacuo gave the title compound (0.119 g). LCMS RT=4.09 min, ES+ve 694 (MH)+.

reactant | (5R)-3-(6-{2-[(3-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 0.202 g | NC=1C=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C28H38N2O6
reactant | 4-biphenylyl isocyanate | 0.126 g | C1(=CC=C(C=C1)N=C=O)C1=CC=CC=C1 | C13H9NO
reactant | Isopropanol | 15 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-(1,1′-Biphenyl-4-yl)-N′-(3-{[2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]-methyl}phenyl)urea | 0.119 g | C1(=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O)C1=CC=CC=C1 | C41H47N3O7
